US09399640B2
Step 1. 1-Fluoro-3-methoxy-2-nitrobenzene
This compound was synthesized according to the procedure of Example 76, Step 5, using 3-fluoro-2-nitrophenol [Combi-Blocks, OR-7136] and methanol as the starting materials.

reactant | 3-fluoro-2-nitrophenol | FC=1C(=C(C=CC1)O)[N+](=O)[O-] | C6H4FNO3
reactant | methanol | CO | CH4O
product | 1-Fluoro-3-methoxy-2-nitrobenzene | FC1=C(C(=CC=C1)OC)[N+](=O)[O-] | C7H6FNO3
